US07737295B2
A solution of [3-iodo-5-(trifluoromethyl)phenyl]methanol (287 mg, 0.95 mmol) in CH2Cl2 (10 mL) was cooled to 0° C. and then Dess-Martin periodinane (604 mg, 1.42 mmol) was added. The reaction was slowly warmed to room temperature. After stirring at room temperature for twenty minutes, the reaction was poured into 1N NaOH (25 mL). The mixture was extracted with EtOAc (50 mL) and the organic extracts were washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 0% to 10% EtOAc/hexanes afforded 3-iodo-5-(trifluoromethyl)benzaldehyde. Rf=0.54 (15% EtOAc/hexanes). 1H NMR (CDCl3, 600 MHz) δ 9.98 (s, 1H), 8.39 (s, 1H), 8.19 (s, 1H), 8.09 (s, 1H).

reactant | [3-iodo-5-(trifluoromethyl)phenyl]methanol | 0.95 mmol, 287 mg | IC=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3IO
reactant | Dess-Martin periodinane | 1.42 mmol, 604 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N, 25 mL | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-iodo-5-(trifluoromethyl)benzaldehyde | IC=1C=C(C=O)C=C(C1)C(F)(F)F | C8H4F3IO
